US04638087
The above-mentioned white powdery material consisting of 6-(2-hydroperoxy-2-propyl)naphthalene-2-carboxylic acid and 6-(2-hydroxy-2-propyl)naphthalene-2-carboxylic acid was reacted in a solvent, acetonitrile, at 50° C. for 30 minutes adding hydrogen peroxide and perchloric acid. Thus, the two compounds were simultaneously subjected to acid decomposition to form 6-hydroxynaphthalene-2-carboxylic acid nearly quantitatively.

reactant | 6-(2-hydroperoxy-2-propyl)naphthalene-2-carboxylic acid | O(O)C(C)(C)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H14O4
reactant | 6-(2-hydroxy-2-propyl)naphthalene-2-carboxylic acid | OC(C)(C)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H14O3
reactant | hydrogen peroxide | OO | H2O2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-hydroxynaphthalene-2-carboxylic acid | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
